US05990101
3-[2-(N-allyloxycarbonyl-N-aminosulfonylamino)ethyl]imidazo[5,1-b]thiazole
Under an argon atmosphere at -38° C., 0.77 ml of diethyl azodicarboxylate was added dropwise to 10 ml of an anhydrous tetrahydrofuran solution containing 550 mg of 3-(2-hydroxyethyl)imidazo[5,1-b]thiazole, 884 mg of N-allyloxycarbonyl-N-aminosulfonylamine and 1286 mg of triphenylphosphine, and the mixture was then stirred at -38° C. to -32° C. for 30 minutes and further stirred for 10 minutes while the solution was heated up to 0° C. The solvent was evaporated under reduced pressure to obtain an oil, and this oil was then dissolved in 50 ml of dichloromethane. Further, extraction was carried out with 2N hydrochloric acid (20 ml×2), and the combined aqueous layer was then washed with 10 ml of dichloromethane. Afterward, the solution was adjusted to pH 9 with anhydrous potassium carbonate, and then subjected to extraction with dichloromethane (30 ml×2). The dichloromethane extract was dried (anhydrous magnesium sulfate:anhydrous potassium carbonate=1:1) and then filtered, and the solvent was evaporated under reduced pressure. Afterward, the resulting oil was purified by a silica gel column chromatograph to obtain 548 mg of the title compound as a milky white amorphous.

reactant | diethyl azodicarboxylate | 0.77 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-(2-hydroxyethyl)imidazo[5,1-b]thiazole | 550 mg | OCCC=1N2C(SC1)=CN=C2 | C7H8N2OS
reactant | N-allyloxycarbonyl-N-aminosulfonylamine | 884 mg | C(C=C)OC(=O)NS(=O)(=O)N | C4H8N2O4S
reactant | triphenylphosphine | 1286 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-[2-(N-allyloxycarbonyl-N-aminosulfonylamino)ethyl]imidazo[5,1-b]thiazole | 548 mg | C(C=C)OC(=O)N(S(=O)(=O)N)CCC=1N2C(SC1)=CN=C2 | C11H14N4O4S2
